US07202363B2
(3E)-4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]but-3-enyl 4-methylbenzenesulfonate
A solution of N-(4-{4-amino-7-[(1E)-4-hydroxybut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.20 g, 0.40 mmol) in dichloromethane (10 mL) was treated with p-toluene sulfonyl chloride (0.100 g, 0.521 mmol), triethyl amine (0.08 g, 0.80 mmol), and dimethyl amino pyridine (0.003 g, 0.02 mmol). The reaction mixture was stirred at room temperature for 24 hours. No workup was used. The compound was purified by flash chromatography on silica gel using 1:1 ethyl acetate:heptane then 100% ethyl acetate to give 0.075 g (29%) the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.70 (m, 1H), 8.60 (d, 1H), 7.90 (s, 1H), 7.80 (d, 1H), 7.70 (d, 1H), 7.45 (m, 1H), 7.40 (m, 1H), 7.30 (m, 2H), 7.21 (m, 2H), 7.19 (m, 1H), 7.10 (m, 1H), 7.05 (m, 1H), 6.60–6.50 (d, 2H), 6.15–6.10 (m, 1H), 4.95 (s, 2H), 4.20 (t, 2H), 4.12 (s, 3H), 3.98 (s, 3H), 2.70 (q, 2H), 2.39 (s, 3H); LCMS (conditions a) Rt 4.28 min (95%), M+ 653.4.

reactant | N-(4-{4-amino-7-[(1E)-4-hydroxybut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.40 mmol, 0.20 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCO | C28H26N4O3S
reactant | p-toluene sulfonyl chloride | 0.521 mmol, 0.100 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyl amine | 0.80 mmol, 0.08 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl amino pyridine | 0.02 mmol, 0.003 g | CC1=C(C(=NC=C1)N)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3E)-4-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridin-7-yl]but-3-enyl 4-methylbenzenesulfonate | 0.075 g, 29% | CC1=CC=C(C=C1)S(=O)(=O)OCC\C=C\C=1C2=C(C(=NC1)N)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C35H32N4O5S2
